US07335658B2
Syhthesis of 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID
To a solution of 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid methyl ester (4.436 g, 11.25 mmol) in tetrahydrofuran (50 mL) and water (25 mL) was added lithium hydroxide monohydrate (2.30 g, 54.81 mmol). The reaction mixture was stirred at ambient temperature for 23 h and the pH of the solution was adjusted to ˜3 with concentrate hydrochloric acid (5.3 mL) at 0° C. The mixture was concentrated. Ethyl acetate (100 mL) was added to the residue and the product was precipited. The solid was collected by filtration, washed with ethyl acetate and dried in vacuo to afford the title compound (3.60 g). The aqueous layer was extracted with ethyl acetate, dried over Na2SO4 and concentrated to give the second portion of title compound (0.463 g). The total amount of product was 4.063 g (95% yield).

reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid methyl ester | 11.25 mmol, 4.436 g | COC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C18H17F3N4O3
reactant | lithium hydroxide monohydrate | 54.81 mmol, 2.30 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 5.3 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID | 3.60 g, 95% yield | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)C(=O)O)C=CC=C1)(F)F | C17H15F3N4O3
